US07951950B2
Step 1. (±)-1,2,3,4-Tetrahydro-quinoline-4-carboxylic acid
Quinoline-4-carboxylic acid (580 mg, 3.35 mmol) was dissolved in an aqueous potassium hydroxide solution (1 M, 10 mL). Nickel/aluminum amalgam (3 g) was added in portions over 1.5 hours. The heterogeneous mixture was stirred at room temperature for 48 hours. Upon completion, the reaction was filtered through Celite® and washed with ethyl acetate. The pH of the aqueous layer was adjusted with concentrated hydrochloric acid to 4-5. Solid sodium chloride was added until the aqueous layer was saturated. The ethyl acetate layer was separated. The aqueous phase was extracted with ethyl acetate. The extracts were combined, washed with minimal brine, dried over sodium sulfate, filtered, and concentrated. 1,2,3,4-Tetrahydro-quinoline-4-carboxylic acid was used without further purification (389 mg, 66%). 1H-NMR (CDCl3) δ: 1.95-2.08 (m, 1H), 2.22-2.37 (m, 1H), 3.23-3.34 (m, 1H), 3.39-3.49 (m, 1H), 3.79 (dd, 1H), 6.56 (d, 1H), 6.69 (dd, 1H), 7.07 (dd, 1H), 7.17 (d, 1H). MS m/z: 178 (M+1).

reactant | Quinoline-4-carboxylic acid | 3.35 mmol, 580 mg | N1=CC=C(C2=CC=CC=C12)C(=O)O | C10H7NO2
solvent | potassium hydroxide | 1 M, 10 mL | [OH-].[K+]
product | (±)-1,2,3,4-Tetrahydro-quinoline-4-carboxylic acid | N1CCC(C2=CC=CC=C12)C(=O)O | C10H11NO2
